US07049448B2
1,4 cyclohexane dione (20.0 grams) and neopentyl glycol (18.6 grams) were dissolved in dichloromethane (160 ml). Then sulfuric acid (3.2 grams) was added to the reaction solution at an ambient temperature and stirred till the reaction substantially completes, accompanied by cooling the reaction mixture to 10–20° C. The resulting reaction mixture was washed with saturated aqueous sodium bicarbonate solution (80 ml) and separated the organic layer from the resulting biphasic mixture. The solvent was distilled off from organic layer till substantial completion under reduced pressure. Hexane (200 ml) was added to the resulting residual mass and followed by cooling the reaction mass to a temperature of 0–5° C. to filter the by-products. Then the solvent from the filtrate was distilled off till the substantial completion under vacuum to yield the desired 1,4 cyclohexanedione mono-2,2-dimethyl trimethylene ketal.

reactant | 1,4 cyclohexane dione | 20.0 grams | C1(CCC(CC1)=O)=O | C6H8O2
reactant | neopentyl glycol | 18.6 grams | OCC(C)(CO)C | C5H12O2
reactant | sulfuric acid | 3.2 grams | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 1,4 cyclohexanedione mono-2,2-dimethyl trimethylene ketal | CC1(COC2(CCC(=O)CC2)OC1)C | C11H18O3
